US06949542B2
[5-(2-Methoxy-ethoxy)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from 5-(2-methoxy-ethoxy)-2-nitro-4-trifluoromethyl-phenylamine [prepared by stirring commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375-74-7], 2-methoxyethanol and KOH in DMSO at 60° C. for 2 days] (12.3 g, 39 mmol) and Boc2O (20.6 g, 94.5 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (7.906 g, 53%).

reactant | 5-(2-methoxy-ethoxy)-2-nitro-4-trifluoromethyl-phenylamine | COCCOC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C10H11F3N2O4
reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | KOH | [OH-].[K+]
reactant | Boc2O | 94.5 mmol, 20.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | 2-methoxyethanol | COCCO | C3H8O2
product | [5-(2-Methoxy-ethoxy)-2-nitro-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCOC)C(F)(F)F)[N+](=O)[O-])=O | C15H19F3N2O6
